US05202350
Synthesis of the intermediate (2,2-Diethoxy)Ethylmalonic Acid, Diethyl Ester (A)
A mixture of 10.6 gms (0.25 moles) sodium hydride 57% oil dispersion and 75 mL hexane was stirred under argon for 10 minutes. The hexane solvent was replaced by 125 mL of dry dimethylformamide, and to this suspension was added dropwise 40.5 gms (0.25 moles) diethyl malonate over 30 minutes. 49 gms (0.25 moles) bromoacetaldehyde diethyl acetal was then added dropwise over 20 minutes. After the addition was complete, the reaction mixture was stirred at 86 degrees Celsius for 18 hours, then cooled to room temperature and diluted with 600 mL of an ice-water mixture. The mixture was 4×200 mL ether extracted. The ether extracts were combined, washed twice with 50 mL cold 5% HCl, twice with 50 mL 5% NaHCO3 solution, twice with saturated NaCl solution, dried over magnesium sulfate, and filtered. The ether was evaporated in vacuo to give 55.2 gms of oil. The crude oil was purified by two successive vacuum distillations to finally give 18 gms of pure product, b.p. 81-83 degrees/0.1 mmHg. Elemental analysis: calculated C 56.51, H 8.75; found C 57.11, H 9.09.

reactant | sodium hydride | 0.25 moles, 10.6 gms | [H-].[Na+]
reactant | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
reactant | diethyl malonate | 0.25 moles, 40.5 gms | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | bromoacetaldehyde diethyl acetal | 0.25 moles, 49 gms | C(C)OC(CBr)OCC | C6H13BrO2
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 75 mL | CCCCCC | C6H14
solvent | ether | 200 mL | CCOCC | C4H10O
product | (2,2-Diethoxy)Ethylmalonic Acid, Diethyl Ester | 55.2 gms | C(C)OC(CC(C(=O)OCC)C(=O)OCC)OCC | C13H24O6
